US04118380
Benzyloxycarbonyl-glycyl-phenylalanyl-phenylalanine Methyl Ester (Z-Gly-Phe-Phe-OMe)
To a stirred, cooled (0° C.) solution of benzyloxycarbonylglycine (955mg, 4.5 mmole) and 1-hydroxybenzotriazole (1.2 g, 9 mmole) in dimethylformamide (15 ml) is added dicyclohexylcarbodiimide (1.03 g, 5 mmole). The mixture is stirred for 1 hour at 0° C. A cooled solution of phenylalanyl-phenylalanine methyl ester trifluoroacetate (2.0 g, 4.5 mmoles, described in U.S. Pat. No. 3,917,578, noted above) in dimethylformamide (20 ml) and N-ethyl morpholine (0.58 ml) is added and the mixture is stirred overnight at room temperature. The mixture is filtered and the filtrate is evaporated. The residue is dissolved in ethyl acetate (100 ml) and the solution is filtered. The filtrate is washed with 10% aqueous citric acid solution, saturated sodium chloride solution, saturated sodium bicarbonate solution and saturated sodium chloride solution. The solution is dried over magnesium sulfate (anhydrous) and evaporated. The residue is crystalized from ethyl acetate-petroleum ether (30°-60°) to give the title compound as crystals, mp 122°-124° C.

reactant | benzyloxycarbonylglycine | 4.5 mmole, 955mg | C(C1=CC=CC=C1)OC(=O)NCC(=O)O | C10H11NO4
reactant | 1-hydroxybenzotriazole | 9 mmole, 1.2 g | ON1N=NC2=C1C=CC=C2 | C6H5N3O
reactant | dicyclohexylcarbodiimide | 5 mmole, 1.03 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
reactant | phenylalanyl-phenylalanine methyl ester trifluoroacetate | FC(C(=O)O)(F)F.COC([C@@H](NC([C@@H](N)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O
reactant | N-ethyl morpholine | 0.58 ml | C(C)N1CCOCC1 | C6H13NO
solvent | dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 20 ml | CN(C=O)C | C3H7NO
product | Benzyloxycarbonyl-glycyl-phenylalanyl-phenylalanine Methyl Ester | COC([C@@H](NC([C@@H](NC(CNC(=O)OCC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O)CC1=CC=CC=C1)=O | C29H31N3O6
